US05270465
d) 7-Hydroxy-2-methoxymethoxymethyl-4(3H)-pteridinone
1.1 g (0.00464 mole) of 4-amino-7-hydroxy-2-(methoxymethoxymethyl)pteridine is added to a solution of 1.5 g (0.0267 mole) of potassium hydroxide in 20 ml of water. The mixture is refluxed for 8 hours. After cooling, the reaction mixture is acidified with 10% hydrochloric acid to pH 5.5. The precipitate formed is isolated by filtration and washed with water. It is extracted with a mixture of 50 ml of ethanol and 60 ml of N,N-dimethylformamide under reflux. This extract, concentrated under reduced pressure, is recrystallized from a mixture of ethanol and N,N-dimethylformamide. Yld: 0.2 g (18%), m.p. 224°-226° C. (ethanol).

reactant | 4-amino-7-hydroxy-2-(methoxymethoxymethyl)pteridine | 0.00464 mole, 1.1 g | NC1=NC(=NC2=NC(=CN=C12)O)COCOC | C9H11N5O3
reactant | potassium hydroxide | 0.0267 mole, 1.5 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 7-Hydroxy-2-methoxymethoxymethyl-4(3H)-pteridinone | OC1=CN=C2C(NC(=NC2=N1)COCOC)=O | C9H10N4O4
